US05466692
2,4-Dimethyl-6-hydroxy-8-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-5,8-dihydro-6H-pyrido[2,3-d]pyrimidin-7-one
To a cooled (-78° C.) solution of 2,4-dimethyl-8-[2'-(1-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-5,8-dihydro-6H-pyrido[2,3-d]pyrimidin-7-one (1.57 g, 2.41 mmol) in THF (5 mL) was added 0.5M potassium hexamethyldisilazide in toluene (5.5 mL, 2.75 mmol). After 45 min, a solution of (+)-camphorsulfonyloxaziridine in THF (5 mL) was added. The mixture was allowed to warm to 5° C. over 5 h. Water (2 mL) and CF3CO2H (2 mL) were added and stirring was continued for 1 h. 1N NaOH (30 mL) was added and the mixture was extracted with EtOAc (discarded). The aqueous phase was acidified to pH 4 with 1N HCl and extracted with CHCl3. The extracts were dried MgSO4) and concentrated. Purification by flash chromatography (5-10% MeOH/CHCl3) gave 377 mg of a yellow oil. Crystallization from acetone yielded 234 mg (23%) of product as an off-white solid, mp 154°-156° C.

reactant | 2,4-dimethyl-8-[2'-(1-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-5,8-dihydro-6H-pyrido[2,3-d]pyrimidin-7-one | 2.41 mmol, 1.57 g | CC=1N=C(C2=C(N1)N(C(CC2)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C | C42H35N7O
reactant | potassium hexamethyldisilazide | 0.5M | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | toluene | 2.75 mmol, 5.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | CF3CO2H | 2 mL | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | NaOH | 1N, 30 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Water | 2 mL | O | H2O
product | 2,4-Dimethyl-6-hydroxy-8-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-5,8-dihydro-6H-pyrido[2,3-d]pyrimidin-7-one | 377 mg | CC=1N=C(C2=C(N1)N(C(C(C2)O)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)C | C23H21N7O2
